US08207177B2
Step b: (5S)-5-({[tert-Butyl(diphenyl)silyl]oxy}methyl)cyclopent-2-en-1-one
(1S,5S)-5-({[tert-Butyl(diphenyl)silyl]oxy}methyl)cyclopent-2-en-1-ol (460. mg, 1.30 mmol) was dissolved in DCM (15.0 mL) and pyridinium dichromate (1.47 g, 3.91 mmol) was added. The mixture was stirred at rt overnight, at which point LC/MS indicated complete conversion. The mixture was diluted with DCM (15.0 mL), filtered and concentrated in vacuo. Silica gel chromatography eluting with 0 to 50% EtOAc in hexanes afforded the title compound (400. mg, 79%). LC/MS: Rt=2.42 min, ES+ 351 (AA standard).

reactant | (1S,5S)-5-({[tert-Butyl(diphenyl)silyl]oxy}methyl)cyclopent-2-en-1-ol | 1.30 mmol | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CC=C[C@@H]1O | C22H28O2Si
reactant | pyridinium dichromate | 3.91 mmol, 1.47 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | DCM | 15.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15.0 mL | C(Cl)Cl | CH2Cl2
product | (5S)-5-({[tert-Butyl(diphenyl)silyl]oxy}methyl)cyclopent-2-en-1-one | 79% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CC=CC1=O | C22H26O2Si
